US06900215B2
3′-Bromo-4,2′,6′-trifluorobiphenyl-2-carbonitrile was reacted with bis(pinacolato)diboron as described in Example 1 to give 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-4,2′,6′-trifluorobiphenyl-2-carbonitrile as a buff-coloured solid: m/z (ES+) 360 (M++H).

reactant | 3′-Bromo-4,2′,6′-trifluorobiphenyl-2-carbonitrile | BrC=1C(=C(C(=CC1)F)C=1C(=CC(=CC1)F)C#N)F | C13H5BrF3N
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-4,2′,6′-trifluorobiphenyl-2-carbonitrile | CC1(OB(OC1(C)C)C=1C(=C(C(=CC1)F)C=1C(=CC(=CC1)F)C#N)F)C | C19H17BF3NO2
